US08106043B2
tert-Butyl 4-(2-chloro-5-nitrophenylamino)piperidine-1-carboxylate:
A solution of 2-chloro-5-nitroaniline (1 g, 5.79 mmol) and tert-butyl 4-oxopiperidine-1-carboxylate (2.309 g, 11.59 mmol) in dichloroethane (15 mL) and acetic acid (0.995 mL, 17.38 mmol) was stirred at room temperature for 30 minutes. At this time, the reaction was treated with sodium triacetoxyborohydride (3.07 g, 14.49 mmol), and the resulting mixture was stirred over the weekend. Additional tert-butyl 4-oxopiperidine-1-carboxylate (2.309 g, 11.59 mmol), sodium triacetoxyborohydride (3.07 g, 14.49 mmol), and dichloroethane (15 mL) were added. Stirring was continued for 2 days. The mixture was then diluted with water and 1N sodium hydroxide (basified to pH 10) and then extracted with dichloromethane (3×). The combined organics were dried, filtered, concentrated, and then chromatographed in 1:19 ethyl acetate:hexanes, giving a yellow/orange foam (1.26 g, 61.1%). 1H NMR (DMSO-d6) δ 7.54 (d, J=8.7 Hz, 1H), 7.51 (d, J=2.4 Hz, 1H), 7.39 (dd, J=8.7, 2.4 Hz, 1H), 5.76-5.63 (m, 1H), 3.99-3.90 (m, 2H), 3.74-3.62 (m, 1H), 3.05-2.80 (m, 2H), 1.89-1.80 (m, 2H), 1.49-1.32 (m, 11H); ESI-MS (m/z, %): 378 (M+Na, 100), 356 (MH+, 40), 300 (62).

reactant | 2-chloro-5-nitroaniline | 5.79 mmol, 1 g | ClC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 11.59 mmol, 2.309 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | acetic acid | 17.38 mmol, 0.995 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 14.49 mmol, 3.07 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 11.59 mmol, 2.309 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | sodium triacetoxyborohydride | 14.49 mmol, 3.07 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
solvent | sodium hydroxide | 1N, pH 10 | [OH-].[Na+]
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | tert-Butyl 4-(2-chloro-5-nitrophenylamino)piperidine-1-carboxylate | 1.26 g, 61.1% | ClC1=C(C=C(C=C1)[N+](=O)[O-])NC1CCN(CC1)C(=O)OC(C)(C)C | C16H22ClN3O4
